US04005142
4-Iodophenyl acetate (7.86 g, 0.030 mole), 1,17-diiodoperfluoro-3,6,9,15-tetraoxaheptadecane (9.68 g, 0.010 mole), and copper bronze (5.08 g, 0.080 g atom) were stirred together under nitrogen at 113°-117° C for 48 hours. The cooled reaction mixture was added to 200 ml of ether. The cuprous salts and excess copper were filtered off and washed on the frit with ether. The ethereal solution was washed several times with water to remove the reaction solvent, dried over anhydrous magnesium sulfate, and reduced in volume under reduced pressure to yield a brown oil. The oil was refluxed with 10 ml of acetic anhydride for 20 minutes and the excess acetic anhydride then distilled off under reduced pressure. Distillation of the residue yielded 4.53 g of 1,17-bis (4-acetoxyphenyl)perfluoro-3,6,9,15-tetraoxaheptadecane, b.p. 184°-189° C/0.10 mm.

reactant | 4-Iodophenyl acetate | 0.030 mole, 7.86 g | C(C)(=O)OC1=CC=C(C=C1)I | C8H7IO2
reactant | 1,17-diiodoperfluoro-3,6,9,15-tetraoxaheptadecane | 0.010 mole, 9.68 g | IC(C(OC(C(OC(C(OC(C(C(C(C(OC(C(I)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C13F26I2O4
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | copper bronze | 5.08 g | [Cu] | Cu
solvent | ether | 200 ml | CCOCC | C4H10O
product | 1,17-bis (4-acetoxyphenyl)perfluoro-3,6,9,15-tetraoxaheptadecane | 4.53 g | C(C)(=O)OC1=CC=C(C=C1)C(C(OC(C(OC(C(OC(C(C(C(C(OC(C(C1=CC=C(C=C1)OC(C)=O)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C29H14F26O8
